US08975252B2
Potassium carbonate (54 mg) and methyl iodide (24 μL) were added to a solution of tert-butyl(2R)-2-({cyclopropyl[3-hydroxy-5-(3-methoxypropoxy)benzyl]amino}carbonyl)morpholin-4-carboxylate (a compound obtained in Reference Example 12, 120 mg) in N,N-dimethylformamide (6 ml) and the mixture was stirred at room temperature for 2 hours. Water was added to the mixture under ice-cooling and it was extracted with ethyl acetate. The organic layer was washed with water and saturated brine successively, dried over sodium sulfate and concentrated in vacuo. The resulted residue was purified with a silica gel column chromatography (eluting solvent: n-hexane/ethyl acetate=2/1) to give tert-butyl(2R)-2-({cyclopropyl[3-methoxy-5-(3-methoxypropoxy)benzyl]amino}carbonyl)morpholin-4-carboxylate (88 mg) as a colorless oil.

reactant | Potassium carbonate | 54 mg | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 24 μL | CI | CH3I
reactant | tert-butyl(2R)-2-({cyclopropyl[3-hydroxy-5-(3-methoxypropoxy)benzyl]amino}carbonyl)morpholin-4-carboxylate | C1(CC1)N(C(=O)[C@H]1CN(CCO1)C(=O)OC(C)(C)C)CC1=CC(=CC(=C1)OCCCOC)O | C24H36N2O7
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
product | tert-butyl(2R)-2-({cyclopropyl[3-methoxy-5-(3-methoxypropoxy)benzyl]amino}carbonyl)morpholin-4-carboxylate | 88 mg | C1(CC1)N(C(=O)[C@H]1CN(CCO1)C(=O)OC(C)(C)C)CC1=CC(=CC(=C1)OCCCOC)OC | C25H38N2O7
